US04598085
1-[4-cyclopentyl-2-(2,4-dichlorophenyl)butyl]-1H-1,2,4-triazole;
mp. 71° C., by the reaction of 1H-1,2,4-triazole with 4-cyclopentyl-2-(2,4-dichlorophenyl)butyl methanesulfonate; and

reactant | 1H-1,2,4-triazole | N1N=CN=C1 | C2H3N3
reactant | 4-cyclopentyl-2-(2,4-dichlorophenyl)butyl methanesulfonate | CS(=O)(=O)OCC(CCC1CCCC1)C1=C(C=C(C=C1)Cl)Cl | C16H22Cl2O3S
product | 1-[4-cyclopentyl-2-(2,4-dichlorophenyl)butyl]-1H-1,2,4-triazole | C1(CCCC1)CCC(CN1N=CN=C1)C1=C(C=C(C=C1)Cl)Cl | C17H21Cl2N3
